datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10]([C:11]([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:11]([C:10]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[c:13]1[c:14]([H:25])[c:15]([H:26])[c:16]([H:27])[c:17]([H:28])[c:18]1[H:29],30.5432
[O:0].[O:1][C:2]1([H:7])[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11]>>[O:0][H:7].[O:1]=[C:2]1[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11],0.0
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([O:7][O:8])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](=[O:1])[H:3].[H:2][O:8][O:7][C:6]([C:5]([C:4]([H:9])([H:10])[H:11])([H:12])[H:13])([H:14])[H:15],56.9024
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[S:7][H:8]>>[C:0]([S:1][S:2][S:7][H:8])([H:3])([H:4])[H:5].[H:6],109.035
[C:0](#[N:1])[H:2].[O:3]>>[C:0](=[N:1][O:3])[H:2],61.463
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:19])[H:20])[H:18])=[C:9]([C:10]([H:21])([H:22])[H:23])[C:11]([H:24])([H:25])[H:26])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([C:7](=[C:8]([H:19])[H:20])[H:18])[C:9]1([C:10]([H:21])([H:22])[H:23])[C:11]([H:24])([H:25])[H:26])[H:12],110.123
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:11]([C:10]([H:18])([H:19])[H:20])([c:12]1[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]1[H:26])[H:21])([H:4])[H:5],43.2207
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6]([S:7][H:10])([H:8])[H:9]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:6]([S:7][H:10])([H:8])[H:9],154.808
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][H:22]>>[C:0]([C:1]1[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:10][O:21][H:22],12.409744
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:18]([c:19]1[c:20]([H:27])[c:21]([H:28])[c:22]([H:29])[c:23]([H:30])[c:24]1[H:31])([H:25])[H:26])[H:8],34.9364
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:29][H:30]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][O:29][H:30],-5.736264
[C:4]([H:5])([H:6])[H:7].[S:0]([S:1][H:3])[H:2]>>[H:2][C:4]([H:5])([H:6])[H:7].[S:0][S:1][H:3],-7.1128
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:13]([C:12]([H:15])([H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:6],6.77808
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])([H:12])[C:20]([C:19]([H:23])([H:24])[H:25])([C:21]([H:26])([H:27])[H:28])[C:22]([H:29])([H:30])[H:31])([H:9])([H:10])[H:11],10.7947
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([H:16])([H:17])[H:18]>>[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4][c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[H:12][C:15]([H:16])([H:17])[H:18],61.38974
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13]([C:14]([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:14]([C:13]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24],13.3888
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:19])=[S:7])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[S:7][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],81.96456
